US03935236
3-Hydroxy-5-methoxybenzoic acid methyl ester is reacted with allyl bromide in the presence of potassium carbonate to give 3-allyloxy-5-methoxybenzoic acid methyl ester. B.p. 128°-30°C/0.4 mmHg. The ester is hydrolized to the corresponding acid with 20% potassium hydroxide in aqueous ethanol. The acid (m.p. 85°-7°C) when heated for 2 hours at 230°C undergoes Claisen rearrangement and cyclization to the title compound which melts at 195°-7°C.

reactant | 3-Hydroxy-5-methoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC)O)=O | C9H10O4
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 3-allyloxy-5-methoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC)OCC=C)=O | C12H14O4
